Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Right index finger laceration
 
Major Surgical or Invasive Procedure:
Operative debridement
 
History of Present Illness:
The patient is a ___ year old veteran with PMH of COPD and HTN
(not on antihypertensives for several years) and current tobacco
use who presents with R finger laceration. The patient reports
that 5 days ago he was cleaning the glass out of his freezer 
from
a broken bottle and he cut his finger. It felt fine at the time,
but after 2 days it began to become very painful and swollen. On
___ he presented to the ED ___. Ultrasound was performed as well
as I&D which drained purulent discharge. Gram stain of discharge
showed GPCs in pairs. He received 2g IV vancomycin there and was
transferred to ___ for further evaluation after swelling was
seen tracking up the L arm. 

In the ED initial vitals were: 99.2  87 189/94 16 98% RA. He was
given ibuprofen, doxycycline and vancomycin. ___ surgery
evaluated the patient and recommended continuing IV antibiotics
that covered MRSA, with plan for possible OR debridement ___. 

On the floor the patient reports feeling well overall, with
minimal pain in the ___. He denies fevers and chills. He 
reports
being able to move the ___ fine and has normal strength and
sensation. 

 
Past Medical History:
COPD
Hypertension (off antihypertensives currently after being told 
he
did not need them several years ago)

 
Social History:
___
Family History:
Noncontributory to current admission 
 
Physical Exam:
VITALS: 98.1 164 / 82 65 20 96 Ra   
General: Alert, NAD, poor dentition
HEENT: poor dentition, many missing teeth, remaining teeth with 
black/necrotic appearance, otherwise OP clear
CV: RRR, no m/r/g, normal S1, S2
Pulm: Mild expiratory wheezes in all lung fields, no crackles
Abd: soft, NT, ND, NABS
Ext: medial edge of R first finger with laceration draining 
scant purulent fluid, surrounding finger and ___ erythematous 
and edematous, mildly TTP; sensation intact, mobility limited by 
swelling but otherwise WNL, 2+ radial pulse; marker tracing up R 
arm without significant erythema or edema present 

 
Pertinent Results:
===========================
PERTINENT LAB RESULTS
===========================
___ 08:54PM   LACTATE-1.1
___ 08:50PM   GLUCOSE-84 UREA N-14 CREAT-1.2 SODIUM-141 
POTASSIUM-4.6 CHLORIDE-102 TOTAL CO2-27 ANION GAP-12
___ 08:50PM   estGFR-Using this
___ 08:50PM   WBC-9.5 RBC-4.32* HGB-13.6* HCT-39.8* MCV-92 
MCH-31.5 MCHC-34.2 RDW-11.4 RDWSD-39.0
___ 08:50PM   NEUTS-70.2 ___ MONOS-8.7 EOS-0.7* 
BASOS-0.2 IM ___ AbsNeut-6.63* AbsLymp-1.87 AbsMono-0.82* 
AbsEos-0.07 AbsBaso-0.02
___ 08:50PM   PLT COUNT-227
___ 08:50PM   ___ PTT-29.4 ___

===========================
PERTINENT IMAGING
===========================
R ___ xray ___
Degenerative disease, soft tissue swelling at the index finger, 
no fracture or radiopaque foreign body. 

 
Brief Hospital Course:
___ year old veteran with PMH of COPD, HTN and current tobacco 
use presents with R first finger laceration with purulent 
drainage and surrounding erythema and edema c/f infection, s/p 
I&D with wound culture at ___ ED, s/p operative debridement ___ 
with no involvement of any deep tissue on 2 week abx course of 
Bactrim upon discharge.

# R first finger MSSA SSTI: 
The patient had purulent drainage and surrounding erythema and 
edema to his R index finger c/f infection. Patient presented 
with marker tracing up R arm and report of edema and erythema 
tracking up R arm though not significantly appreciated on exam. 
On admission he was overall not septic appearing. The ___ ED gram 
stain showed GPCs in pairs and upon follow up of the culture, 
the patient was growing pan-sensitive MSSA. While in house, the 
patient had an operative debridement on ___ with no involvement 
of deep tissue. Patient tolerated the procedure well and has a 
dry, sterile dressing/splint applied to the surgical site. He 
will be on a 2 week course of PO Bactrim DS with close follow up 
from the ___ surgery team. 

# HTN: 
The patient was not previously on antihypertensives, but blood 
pressures
remained elevated with SBP in the 160s-170s at admission. We 
started him on amlodipine 5mg daily while in house.

# Tobacco/cocaine/alcohol use: 
He has been stable, without withdrawal symptoms. He has been 
advised to use a nicotine patch however he refused to use it 
while in house. At this time there is no indication for the CIWA 
scale although he has a low threshold to start.

# COPD:
He currently is asymptomatic and did not have any flare ups. He 
has been using an albuterol inhaler every 4 hours as needed for 
shortness of breath. 

Transitional Issues:

NEW MEDICATIONS: 
Bactrim DS 2 tab PO BID D1= ___
Amlodipine 5mg daily
CHANGE MEDICATIONS: none
DISCONTINUED MEDICATIONS: none

FOLLOW UP APPOINTMENTS: PCP, ___
FOLLOW UP TESTING: f/u ___ wound culture for confirmation of 
sensitivities
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 2 
tablet(s) by mouth twice a day Disp #*42 Tablet Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis/es
1.Right first finger MSSA Skin and Soft Tissue Infection
2.Hypertension

Secondary Diagnosis/es
1.Tobacco/cocaine/alcohol use
2.Chronic obstructive pulmonary disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for an 
injury to your right index finger. We were concerned for an 
infection to be the cause of your symptoms and thought it would 
be best to perform a procedure in which we would remove as much 
of the infection from your right index finger as possible. You 
were also given antibiotics for this infection. Your symptoms 
including pain and redness improved.

Please continue your course of oral bactrim as instructed. If 
your condition does not improve or your symptoms become worse, 
please contact your primary care physician or present to the 
emergency department.

Thank you for allowing us to be a part of your care,
Your ___ Team
 
Followup Instructions:
___